US07750154B2
Using an analogous procedure to that described paragraph (A) in the portion of Example 13 which is concerned with the preparation of starting materials 4-hydroxypiperidine was reacted with N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide to give N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-hydroxypiperidin-1-yl)-2-nitrobenzamide; NMR Spectrum: (DMSOd6) 0.55 (m, 2H), 0.68 (m, 2H), 1.43 (m, 2H), 1.82 (m, 2H), 2.30 (s, 3H), 2.84 (m, 1H), 3.25 (m, 2H), 3.82 (m, 3H), 4.76 (d, 1H), 7.04 (m, 2H), 7.28 (d, 1H), 7.56 (d, 1H), 7.96 (s, 1H), 8.02 (d, 1H), 8.36 (s, 1H), 9.90 (s, 1H); Mass Spectrum: M+Na+ 461.

reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
reactant | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-fluoro-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)F)[N+](=O)[O-])=O)C | C18H16FN3O4
product | N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-(4-hydroxypiperidin-1-yl)-2-nitrobenzamide | C1(CC1)NC(=O)C=1C=CC(=C(C1)NC(C1=C(C=CC(=C1)N1CCC(CC1)O)[N+](=O)[O-])=O)C | C23H26N4O5
